US05686424
Using the procedure described previously, a solution of L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide (106 mg, 0.28 mmol), triethylamine (158 uL, 1.13 mmol, 4 eq) in acetonitrile (1.5 mL, was cooled to 0° C. and treated with isobutyl chloroformate (40.5 uL, 0.31 mmol, 1.1 eq) followed by 1-adamantanemethylamine (100 uL, 0.57 mmol, 2 eq). After TLC indicated the reaction was complete, the mixture was purified by HPLC to provide 15 mg (10%) of L-isoleucine, N-[1-(adamant-1-ylmethylcarbamoylmethyl)-L-prolyl] benzylamide.

reactant | L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide | 0.28 mmol, 106 mg | C(=O)(O)CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1 | C20H29N3O4
reactant | triethylamine | 1.13 mmol, 158 uL, 4 eq | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.31 mmol, 40.5 uL, 1.1 eq | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-adamantanemethylamine | 0.57 mmol, 100 uL, 2 eq | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
solvent | acetonitrile | C(C)#N | C2H3N
product | L-isoleucine, N-[1-(adamant-1-ylmethylcarbamoylmethyl)-L-prolyl] benzylamide | 15 mg, 10% | C12(CC3CC(CC(C1)C3)C2)CNC(=O)CN2[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC3=CC=CC=C3)CCC2 | C31H46N4O3
